### PR TITLE
Added properties about DiffList in Data.DifferenceList.Properties 

### PR DESCRIPTION
**Pull request by mikedelorimier**
This adds `Data.DifferenceList.Properties` and moves `Data.DifferenceList` to `Data.DifferenceList.Base`. `DiffList` is like `List` but has efficient `++`.

The new file is centered the new relation `xs ~ ys` between `xs : List A` and its equivalent `ys : DiffList A`. `~` is kind of like a simulation relation between `List` and `DiffList`. Each property shows preservation of a `List` op and its equivalent `DiffList` op. For example `map⁺` relates `List.map` and `DifferenceList.map`:
```
map⁺ : (f : A → B) → xs ∼ ys → List.map f xs ∼ map f ys
```

It was easier for me to define and use properties on the relation `xs ~ ys` than properties on a transport function between `List` and `DiffList` (i.e. `toList` or `fromList`). The transport approach seemed complicated because there are many `DiffList`s that aren't equivalent to `List`s.

This change is motivated by the characterization of `Data.Tree.AVL.Indexed.toList`, which was implemented using `DiffList` for efficiency. A followup PR for the AVL's `toList` will use this PR's `[]⁺` and `++-∷⁺` (pre-PR code is [here](https://github.com/mikedelorimier/agda-stdlib/blob/avl-to-list/src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda)). `Properties` also adds similar properties that seemed natural but are not currently used: `∼-fromList` `toList∘fromList` `toList⁺` `fromList⁺` `[_]⁺` `∷ʳ⁺` `map⁺`. So let me know if you'd like to review this one as a self-contained change or wait for followup PRs and review them all at once.

### CODE REVIEW

**Comment by mikedelorimier** [comment]
Why isn't there a `take⁺` or `drop⁺`? Because `take` and `drop` don't preserve `~`. For `DiffList` the `take` absorbs the `++`:
```
(DiffList.take n ys) DiffList.++ ys′ ≡ DiffList.take n (ys DiffList.++ ys′)
```
Obvious the same isn't true for `List`s: `(List.take n xs) List.++ xs′` does not absorb the `++`.

`drop` also passes a non-prepending function to `lift`, which means that it is not equivalent to `List.drop`. `DiffList`'s `take` and `list` aren't used anywhere in the stdlib, so perhaps they should be renamed or removed.

File: src/Data/DifferenceList/Base.agda [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+------------------------------------------------------------------------
+-- Conversion back and forth with List
+
+toList : DiffList A → List A
+toList xs = xs List.[]
+
+-- fromList xs is linear in the length of xs.
+
+fromList : List A → DiffList A
+fromList xs = λ k → xs ⟨ List._++_ ⟩ k
```
Comment (gallais) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
fromList xs = λ k → xs List.++ k
```

File: src/Data/DifferenceList/Base.agda [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+
+------------------------------------------------------------------------
+-- Transforming difference lists
+
+-- It is OK to use List._++_ here, since map is linear in the length of
+-- the list anyway.
+
+map : (A → B) → DiffList A → DiffList B
+map f xs = λ k → List.map f (toList xs) ⟨ List._++_ ⟩ k
```
Comment (gallais) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
map f xs = fromList $ List.map f (toList xs)
```

File: src/Data/DifferenceList/Base.agda [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+
+-- concat is linear in the length of the outer list.
+
+concat : DiffList (DiffList A) → DiffList A
+concat xs = concat′ (toList xs)
+  where
+  concat′ : List (DiffList A) → DiffList A
+  concat′ = List.foldr _++_ []
```
Comment (gallais) [inline src/Data/DifferenceList/Base.agda]: I don't think we need this auxiliary definition

**Review by gallais — COMMENTED** [review]
Looks good; my only comments are on the old code :D

File: src/Data/DifferenceList/Base.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList/Base.agda]: Or even
```suggestion
fromList = List._++_
```
???
Other such eta-contractions are available throughout the old definitions.

File: src/Data/DifferenceList/Base.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList/Base.agda]:
```suggestion
map = fromList ∘′ List.map f ∘′ toList
```

File: src/Data/DifferenceList/Base.agda [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+-- DiffList: basic types and operations
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.DifferenceList.Base where
+
+open import Level using (Level)
+open import Data.List.Base as List using (List)
+open import Function.Base using (_⟨_⟩_)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
open import Function.Base using (_∘′_; id)
```
See below.

File: src/Data/DifferenceList/Base.agda [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+
+
+------------------------------------------------------------------------
+-- Type definition and list function lifting
+
+DiffList : Set a → Set a
+DiffList A = List A → List A
+
+lift : (List A → List A) → (DiffList A → DiffList A)
+lift f xs = λ k → f (xs k)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]: I no longer think that `lift` really earns its place as an operation in its own right...
... rather, as function composition `_∘′_`, it serves to define `_++_` on `DiffList`, and correspondingly, it makes more sense, to me at least, to define everything else in terms of `_++_`, and deprecate `lift`...

File: src/Data/DifferenceList/Base.agda [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+
+------------------------------------------------------------------------
+-- Building difference lists
+
+infixr 5 _∷_ _++_
+
+[] : DiffList A
+[] = λ k → k
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
[] = id
```

File: src/Data/DifferenceList/Base.agda [hunk 7]
```diff
@@ -0,0 +1,85 @@
...
+
+_∷_ : A → DiffList A → DiffList A
+_∷_ x = lift (x List.∷_)
+
+[_] : A → DiffList A
+[ x ] = x ∷ []
+
+_++_ : DiffList A → DiffList A → DiffList A
+xs ++ ys = λ k → xs (ys k)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
[_] : A → DiffList A
[ x ] = x List.∷_

_++_ : DiffList A → DiffList A → DiffList A
_++_ = _∘′_

_∷_ : A → DiffList A → DiffList A
x ∷ xs = [ x ] ++ xs
```

File: src/Data/DifferenceList/Base.agda [hunk 8]
```diff
@@ -0,0 +1,85 @@
...
+
+infixl 6 _∷ʳ_
+_∷ʳ_ : DiffList A → A → DiffList A
+xs ∷ʳ x = λ k → xs (x List.∷ k)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
xs ∷ʳ x = xs ++ [ x ]
```

File: src/Data/DifferenceList/Base.agda (hunk 3 above)
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
concat = List.foldr _++_ [] ∘′ toList
```

File: src/Data/DifferenceList/Base.agda [hunk 9]
```diff
@@ -0,0 +1,85 @@
...
+-- concat is linear in the length of the outer list.
+
+concat : DiffList (DiffList A) → DiffList A
+concat xs = concat′ (toList xs)
+  where
+  concat′ : List (DiffList A) → DiffList A
+  concat′ = List.foldr _++_ []
+
+take : ℕ → DiffList A → DiffList A
+take n = lift (List.take n)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
take n = (List.take n) ++_
```

File: src/Data/DifferenceList/Base.agda [hunk 10]
```diff
@@ -0,0 +1,85 @@
...
+
+drop : ℕ → DiffList A → DiffList A
+drop n = lift (List.drop n)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
drop n = (List.drop n) ++_
```

File: src/Data/DifferenceList/Properties.agda [hunk 11]
```diff
@@ -0,0 +1,104 @@
...
+    B : Set b
+    xs xs₁ xs₂ : List A
+    ys ys₁ ys₂ : DiffList A
+
+
+------------------------------------------------------------------------
+-- Relation between Lists and equivalent DiffLists
+
+infix 4 _∼_
+_∼_ : {A : Set a} → List A → DiffList A → Set a
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: `A` is already (implicitly) globally available to be bound by the `variable` declaration, so it's not needed here, at the cost of no longer being able to explicitly refer to `a`... but it's (uniquely!) inferrable here
```suggestion
_∼_ : List A → DiffList A → Set _
```

File: src/Data/DifferenceList/Properties.agda [hunk 12]
```diff
@@ -0,0 +1,104 @@
...
+_∼_ {A = A} xs ys = (k : List A) → fromList xs k ≡ ys k
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: And here, indeed, the LHS would still need `{A = A}`...

... separately, though, this definition reduces to 

```suggestion
_∼_ {A = A} xs ys = fromList xs ≗ ys
```
at which point it is eliminable (indeed, should be, otherwise there's a unification failure!) in favour of 
```suggestion
xs ∼ ys = fromList xs  ≗ ys
```
which is, I think, a lot clearer, and emphasises that your simulation relation is the *graph relation* of `fromList` (up to the 'right' notion of equality of functions...)

File: src/Data/DifferenceList/Properties.agda [hunk 13]
```diff
@@ -0,0 +1,104 @@
...
+module Data.DifferenceList.Properties where
+
+open import Data.DifferenceList.Base
+  using (DiffList; fromList; toList; lift; []; _∷_; [_]; _++_; _∷ʳ_; map)
+open import Data.List as List using (List)
+open import Data.List.Properties using (++-assoc; ++-identityʳ)
+open import Function using (id)
+open import Level using (Level)
+open import Relation.Binary.PropositionalEquality
+  using (_≡_; refl; cong; sym; module ≡-Reasoning)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]:
```suggestion
  using (_≡_; refl; cong; sym; _≗_; module ≡-Reasoning)
```
see below

File: src/Data/DifferenceList/Properties.agda [hunk 14]
```diff
@@ -0,0 +1,104 @@
...
+
+toList⁺ : xs ∼ ys → xs ≡ toList ys
+toList⁺ {xs = xs} {ys} xs∼ys = begin
+  xs                  ≡⟨ sym (++-identityʳ xs) ⟩
+  xs List.++ List.[]  ≡⟨ xs∼ys List.[] ⟩
+  ys List.[]          ≡⟨⟩
+  toList ys           ∎
+
+fromList⁺ : xs ∼ ys → (k : List A) → fromList xs k ≡ ys k
+fromList⁺ = id
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: When defining inverse/adjoint pairs `f`/`g` wrt notions of equality on source `_∼_` and target `_≈_` domains, I thinks it's (usually) easier (and more flexible to be able to apply... it's a UX/ergonomic thing)  to phrase things in the form

```agda
y ≈ f x  → x ∼ g y
x ∼ g y → y ≈ f x
```
(or variants modulo symmetry) cf. #2599 , and then conclude your lemmas by appeal to reflexivity.

File: src/Data/DifferenceList.agda [hunk 15]
```diff
@@ -1,84 +1,12 @@
...
-  concat′ : List (DiffList A) → DiffList A
-  concat′ = List.foldr _++_ []
-
-take : ℕ → DiffList A → DiffList A
-take n = lift (List.take n)
-
-drop : ℕ → DiffList A → DiffList A
-drop n = lift (List.drop n)
+open import Data.DifferenceList.Base public
+open import Data.DifferenceList.Properties public
```
Comment (jamesmckinna) [inline src/Data/DifferenceList.agda:15]: I wholly support this refactoring!

File: src/Data/DifferenceList.agda [hunk 16]
```diff
@@ -1,84 +1,12 @@
 ------------------------------------------------------------------------
 -- The Agda standard library
 --
--- Lists with fast append
+-- A DiffList is a List with fast append
```
Comment (jamesmckinna) [inline src/Data/DifferenceList.agda]: Mention Cayley? Hughes?
Cf. `Function.Endo.Setoid` etc. also!

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Thanks very much for this @mikedelorimier .

I wholeheartedly agree with the overhaul of this ancient piece of legacy code.

Where I disagree is on the implementation details, but I think the suggestions I offer are intended to expose more of the 'real' structure of what is going on... but YMMV.

I haven't commented on the `Properties of functions` sections, until such time as the dust settles on this first round of reviewing...

**Comment by jamesmckinna** [comment]
Oh, and as a suggested coda to all of the above:
```agda
------------------------------------------------------------------------
-- DEPRECATED NAMES
------------------------------------------------------------------------
-- Please use the new names as continuing support for the old names is
-- not guaranteed.

-- Version 3.0
lift : DiffList A → DiffList A → DiffList A
lift = _++_
{-# WARNING_ON_USAGE lift
"Warning: lift was deprecated in v3.0.
Please use _++_ instead."
#-}
```

File: src/Data/DifferenceList/Base.agda (hunk 5 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: Yeah, I think `lift` is deceptive because it only preserves the `~` when `f` is a prepend. In `Base`, 1 use of lift (by `_∷_`) did prepend, and 2 uses of lift (`take`, `drop`) didn't do prepend. And `take` and `drop` don't have the usual meaning.

File: src/Data/DifferenceList/Base.agda (hunk 3 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: removed `concat'`

File: src/Data/DifferenceList/Base.agda (hunk 4 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Base.agda (hunk 5 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: marked `lift` as deprecated and removed uses

File: src/Data/DifferenceList/Base.agda (hunk 6 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Base.agda (hunk 8 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Base.agda (hunk 3 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Base.agda (hunk 9 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Base.agda (hunk 10 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Properties.agda (hunk 11 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done

File: src/Data/DifferenceList/Properties.agda (hunk 12 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: Yes, the meaning is clearer now with the simpler syntax.

File: src/Data/DifferenceList/Properties.agda (hunk 13 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done

File: src/Data/DifferenceList/Properties.agda (hunk 14 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: I'm just working on understanding this comment.

My understanding is, `f` is `fromList`, `g` is `toList`,  `_∼_` is `_≡_`, and `_≈_` is `_≗_`. So `HalfRightAdjoint` holds:
```
fromList xs ≗ ys → xs ≡ toList ys
```
This is `toList⁺`.

But the `HalfLeftAdjoint` doesn't hold because a `DiffList` isn't necessarily a list (e.g. `λ k → k List.++ k`).

I was thinking of using `halfRightAdjoint⇒inverseʳ` to prove `toList∘fromList` given `toList⁺` but it looks like `HalfRightAdjoint` is gone in the current version.

`fromList⁺` clearly wasn't adding anything so I removed it.

Now I'm in the middle of reading [Hughes' 'A NOVEL REPRESENTATION OF LISTS AND ITS APPLICATION
-- TO THE FUNCTION "REVERSE"'](https://www.cs.tufts.edu/~nr/cs257/archive/john-hughes/lists.pdf), which does give a form for lemmas that make the proofs much simpler (often `refl`).  Writing all the ops' lemmas like `(xs : List A) → f (fromList xs) ≗ fromList (List.f xs)` resulted in much simpler proofs (mostly `refl`), so perhaps this is related to what you're suggesting. But the AVL `toList` use needs a lemma like `(ys : DiffList A) → List.f (toList ys) ≡ toList (f ys)`, which is the same as the paper's "FORALL r : R . f (abs r) = abs (g r)".

I see that pg 2 uses the assumption "any list representations f and g must be equal to rep F and rep G for some F and G" to prove `(toList ys₁ List.++ toList ys₂) ≡ toList (ys₁ ++ ys₂)`. But given the `DiffList`, we have to use something like `xs ∼ ys` to track that the `xs` exists, which is what's making all the proofs more complicated. For example, in the AVL use, I had to add the extra `toList t ~ toDiffList t`, which has to recurse on the tree to prove that the `List` exists. If we didn't need existence then we could directly use a lemma from DiffList: `toList left List.++ middle List.∷ toList right ≡ toList (left ++ middle ∷ right)`.

File: src/Data/DifferenceList.agda (hunk 16 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList.agda]: I'm reading [Notions of Computation as Monoids](https://arxiv.org/pdf/1406.4823) to get the Cayley connection now. Hopefully this will explain the connection to `Function.Endo.Setoid` too.

**Comment by jamesmckinna** [comment]
You'll also need to add an entry to `CHANGELOG` to record this addition under `New modules`, such as
```agda
* `Data.DifferenceList` has been refactored to reexport the contents of two new modules:
  - `Data.DifferenceList.Base`
  - `Data.DifferenceList.Properties`
```

File: src/Data/DifferenceList/Properties.agda (hunk 14 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList/Properties.agda]: Thanks for the thoughtful followup esp. wrt questions around `abs`/`rep` soundness, but not necessarily completeness.

Regarding the `Adjoint` stuff, this was prompted by having #2599 on my current stack, but not really having thought hard enough about its applicability here. Maybe revisit this downstream...

File: src/Data/DifferenceList.agda (hunk 16 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList.agda]: Again, apologies for my (distracted) 'shorthand' commentary. I guess what I had had in mind is that we should (one day!) see the `DifferenceList` constructions as instances of a more general representation of a given `Setoid S` in terms of its `Endo` function space (and my stalled contributions on general `Magma`/`Monoid` actions). But that would *very much* be a downstream refactoring...

... and this PR has been very helpful in nudging me to (re)start thinking about such things, so they shouldn't get in the way of progress on this one!

File: src/Data/DifferenceList/Properties.agda [hunk 17]
```diff
@@ -0,0 +1,89 @@
...
+
+∼-fromList : xs ∼ fromList xs
+∼-fromList _ = refl
+
+toList∘fromList : (xs : List A) → toList (fromList xs) ≡ xs
+toList∘fromList = ++-identityʳ
+
+toList⁺ : xs ∼ ys → xs ≡ toList ys
+toList⁺ {xs = xs} {ys} xs∼ys = begin
+  xs                  ≡⟨ sym (++-identityʳ xs) ⟩
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]:
```suggestion
  xs                  ≡⟨ ++-identityʳ xs ⟨
```
Since v2.0 we've introduced syntax to avoid the need to do any explicitly `sym` reasoning, which I think makes such steps a bit clearer?

File: src/Data/DifferenceList/Properties.agda [hunk 18]
```diff
@@ -0,0 +1,89 @@
...
+        xs₁ List.++ x List.∷ xs₂ ∼ ys₁ ++ x ∷ ys₂
+++-∷⁺ x xs₁∼ys₁ xs₂∼ys₂ = ++⁺ xs₁∼ys₁ (∷⁺ x xs₂∼ys₂)
+
+∷ʳ⁺ : (x : A) → xs ∼ ys → xs List.∷ʳ x ∼ ys ∷ʳ x
+∷ʳ⁺ {xs = xs} {ys} x xs∼ys k = begin
+  xs List.∷ʳ x List.++ k             ≡⟨⟩
+  (xs List.++ List.[ x ]) List.++ k  ≡⟨ ++-assoc xs List.[ x ] k ⟩
+  xs List.++ (x List.∷ k)            ≡⟨ xs∼ys (x List.∷ k) ⟩
+  ys (x List.∷ k)                    ≡⟨⟩
+  (ys ∷ʳ x) k                        ∎
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: Speculation: can this proof be streamlined in terms of `++⁺` and `[_]⁺`, noting that we have, moreover *definitionally*, `xs ∷ʳ x = xs ++ [ x ]` on `List`, and `xs ∷ʳ x = xs ++ [ x ]` also on `DiffList`? It seems as though there should be no need to relitigate `++-assoc` here once it's been encapsulated in  `++⁺`?

File: src/Data/DifferenceList/Properties.agda [hunk 19]
```diff
@@ -0,0 +1,89 @@
...
+
+map⁺ : (f : A → B) → xs ∼ ys → List.map f xs ∼ map f ys
+map⁺ f xs∼ys k =
+  cong (λ xs → fromList (List.map f xs) k) (toList⁺ xs∼ys)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda:84]: Similarly, this proof is fine as it is, but maybe could be re-expressed in terms of combinators for `_≗_`-Reasoning?

**Review by jamesmckinna — APPROVED** [review]
Subject to fixing the `CHANGELOG`, I think this is all good as it is, but maybe could be made a tiny bit more slick when it comes to delegating proofs of `xs ∼ ys` steps to the corresponding ones in terms of `_≗_`?

**Comment by gallais** [comment]
> Why isn't there a `take⁺` or `drop⁺`? Because `take` and `drop` don't preserve `~`.

I think we should consider dropping these functions that are not law-abiding.

We may also want to name the pattern `fromList ∘′ f ∘′ toList` used in `map`
(maybe named `viaList`?) and prove a general result (is it provable?) of the form
`xs ~ ys -> viaList f xs ~ f ys`.

(Feel free to tell me to do it in a separate PR if you don't want to ;))

File: src/Data/DifferenceList.agda (hunk 16 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList.agda]: Added comment: DiffList is the Cayley representation for the List.++ monoid.

File: src/Data/DifferenceList/Base.agda [hunk 20]
```diff
@@ -0,0 +1,94 @@
...
+
+private
+  variable
+    a b : Level
+    A : Set a
+    B : Set b
+
+
+------------------------------------------------------------------------
+-- Type definition and list function lifting
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Base.agda]:
```suggestion
-- Type definition
```

File: src/Data/DifferenceList/Properties.agda (hunk 14 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: This is helping me get a better understanding of the design space. It just seemed like the simulation relation style was convenient. But ideally we'd use an abstraction or named design pattern. Would this be a homomorphism on a `HalfLeftAdjoint`?

File: src/Data/DifferenceList/Properties.agda (hunk 17 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done

File: src/Data/DifferenceList/Properties.agda (hunk 18 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: Yes, the proof with just `++⁺` and `[_]⁺` is simpler.

File: src/Data/DifferenceList/Base.agda (hunk 20 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Base.agda]: done

File: src/Data/DifferenceList/Properties.agda (hunk 19 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda:84]: What's example of a combinator for `_≗_` reasoning? I tried equational reasoning for `_≗_`, but it doesn't seem much more clear:
```
open import Relation.Binary.PropositionalEquality using (_→-setoid_)
map⁺ : (f : A → B) → xs ∼ ys → List.map f xs ∼ map f ys
map⁺ {B = B} {xs = xs} {ys = ys} f xs∼ys = begin
  fromList (List.map f xs)          ≈⟨ (λ k → cong (λ xs → fromList (List.map f xs) k) (toList⁺ xs∼ys)) ⟩
  fromList (List.map f (toList ys)) ≈⟨ (λ _ → refl) ⟩
  map f ys                          ∎
  where open import Relation.Binary.Reasoning.Setoid (List B →-setoid List B)
```

Comment (jamesmckinna) [reply src/Data/DifferenceList/Properties.agda:84]: Agreed... that doesn't look so good after all. Happy to leave things as they are... and that might prompt me to think harder about the question!

**Comment by mikedelorimier** [comment]
> I think we should consider dropping these functions that are not law-abiding.

Makes sense, but can this and `viaList` be a followup PR? I'm unclear on how to format deprecated names that are planned for removal.

I updated the CHANGELOG's `New modules`, and I don't see any other pending comments.

**Comment by jamesmckinna** [comment]
@gallais if you added a second approval, I'd be happy to merge.

**Review by gallais — APPROVED** [review]
